US05808062
4-[4-Hydroxy-2-oxo-3-[(2-phenylethyl)thio]-2H-pyran-6-yl]phenoxy acetic acid ethyl ester:
To a methanol solution (3 ml) of the 4-hydroxy-6-(4-hydroxyphenyl)-3-[(2-phenylethyl)thio]-2H-pyran-2-one (0.500 g, 1.47 mmol) was added cesium carbonate (0.955 g, 2.94 mmol). The reaction was stirred for 3 hrs. and is then concentrated in vacuo. Next, dimethylformamide (15 mL) is added and the residue is reconcentrated in vacuo to dryness. The solid is then diluted with dimethylformamide (3 mL) and bromoethylacetate (0.491 mL, 2.94 mmol) is added. The slurry is then stirred for 3 hrs. The reaction is quenched by dilution with ethyl acetate (100 mL). The organic layer is washed in succession with; 1N HCl, water, saturated sodium chloride; dried over anhydrous magnesium sulfate. After evaporation of the solvents in vacuo, the crude product was purified by flash column chromatography (SiO2 --230 to 400 mesh) using a gradient of 15% ethyl acetate/hexanes to 50% ethyl acetate/hexanes to 30% ethyl acetate/30% hexanes/40% methylene chloride.: m.p. 169°-171° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.20 (t, 3 H), 2.75 (t, 2 H), 2.96 (t, 2 H), 4.16 (q, 2 H), 4.87 (s, 2 H), 6.69 (s, 1 H), 7.06 (d, 2 H), 7.19 (m, 5 H), 7.73 (d, 2 H), 11.85 (bs, 1 H).

reactant | methanol | 3 ml | CO | CH4O
reactant | 4-hydroxy-6-(4-hydroxyphenyl)-3-[(2-phenylethyl)thio]-2H-pyran-2-one | 1.47 mmol, 0.500 g | OC1=C(C(OC(=C1)C1=CC=C(C=C1)O)=O)SCCC1=CC=CC=C1 | C19H16O4S
reactant | cesium carbonate | 2.94 mmol, 0.955 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromoethylacetate | 2.94 mmol, 0.491 mL | BrCCOC(C)=O | C4H7BrO2
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-[4-Hydroxy-2-oxo-3-[(2-phenylethyl)thio]-2H-pyran-6-yl]phenoxy acetic acid ethyl ester | C(C)OC(COC1=CC=C(C=C1)C1=CC(=C(C(O1)=O)SCCC1=CC=CC=C1)O)=O | C23H22O6S
